US04273779
The starting material is prepared as follows: The mixture of 7.61 g of 5-amino-pyridine-2-carboxylic acid methyl ester, 7.61 g of trans-cinnamaldehyde and 130 ml of benzene is stirred and refluxed on a water trap for 41/2 hours. It is evaporated and the residue recrystallized from ethyl acetate, to yield the 5-cinnamylideneaminopyridine-2-carboxylic acid methyl ester melting at 128°-131°.

reactant | 5-amino-pyridine-2-carboxylic acid methyl ester | 7.61 g | COC(=O)C1=NC=C(C=C1)N | C7H8N2O2
reactant | trans-cinnamaldehyde | 7.61 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
product | 5-cinnamylideneaminopyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)N=CC=CC1=CC=CC=C1 | C16H14N2O2
